US04207320
A stirred mixture of 219.5 g. of 3-fluoro-10-methylimidazo[1,2-a:-3,4-a']diquinolin-15-ium chloride trihydrate and 580 ml. of N-methyl-2-pyrrolidinone is heated to 150° C. and 144 ml. of pyrrolidine is added over a 2 minute period. The mixture is heated and stirred at reflux (132°-140° C.) for 40 minutes, allowed to cool, and then is diluted with 2 l. of ethyl acetate. The precipitated solid is collected by filtration, washed with ethyl acetate, dried and dissolved in 1.6 l. of methanol. The methanol solution is treated with 20 g. of activated charcoal and filtered. The filtrate is passed over a column of 1 l. of IRA-410 anion exchange resin (Cl- form, suspended in methanol) over a period of 3 hours. The eluate is evaporated at reduced pressure to give a residue of 10-methyl-3-(1-pyrrolidinyl)-imidazo[1,2-a:3,4-a']diquinolin-15-ium chloride; m.p. 245°-320° C. (dec.) after crystallization from dimethylformamide and from 2-propanol/acetonitrile.

reactant | 3-fluoro-10-methylimidazo[1,2-a:-3,4-a']diquinolin-15-ium chloride trihydrate | O.O.O.[Cl-].FC1=CC=2C=CC3=[N+](C2C=C1)C=C1N3C=3C=CC(=CC3C=C1)C
reactant | N-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 10-methyl-3-(1-pyrrolidinyl)-imidazo[1,2-a:3,4-a']diquinolin-15-ium chloride | [Cl-].CC1=CC=2C=CC=3N(C2C=C1)C1=[N+](C=2C=CC(=CC2C=C1)N1CCCC1)C3 | InChI=1S/C24H22N3.ClH/c1-17-4-9-23-18(14-17)5-7-21-16-26-22-10-8-20(25-12-2-3-13-25)15-19(22)6-11-24(26)27(21)23;/h4-11,14-16H,2-3,12-13H2,1H3;1H/q+1;/p-1
